US08258144B2
6-(4-(benzylamino)-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-1-methyl-3,4-dihydroquinolin-2(1H)-one
A solution of N-benzyl-2-chloro-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (27 mg, 0.055 mmol), 6-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one (20 mg, 0.11 mmol) and trimethylsilyl chloride (0.070 mL, 0.553 mmol) in nBuOH (1.5 mL) was stirred at 116° C. for 20 h. More trimethylsilyl chloride (0.100 mL, 0.790 mmol) was added. It was stirred at 116° C. for another 40 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound. MS 476.4 (M+H); UV 200.3, 268.7, 309.3 nm.

reactant | N-benzyl-2-chloro-5-(pyridin-4-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.055 mmol, 27 mg | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)Cl)N(C=C2C2=CC=NC=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C25H20ClN5O2S
reactant | 6-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | 0.11 mmol, 20 mg | NC=1C=C2CCC(N(C2=CC1)C)=O | C10H12N2O
reactant | trimethylsilyl chloride | 0.553 mmol, 0.070 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | trimethylsilyl chloride | 0.790 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 1.5 mL | C(CCC)O | C4H10O
product | 6-(4-(benzylamino)-5-(pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-1-methyl-3,4-dihydroquinolin-2(1H)-one | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)NC=1C=C3CCC(N(C3=CC1)C)=O)NC=C2C2=CC=NC=C2 | C28H25N7O
